US06887896B1
Ethyl (2E)-3-(4-bromo-8-tert-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-enoate (Compound A-130)
As described in General Procedure F-1, 1-(4-bromo-8-tert-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone (Compound A-114, 98 mg, 0.26 mmol) and triethyl-2-fluoro-2-phosphonoacetate (250 mg, 1.03 mmol) were reacted with n-butyllithium (1.6 M in hexanes, 0.65 mL, 1.03 mmol) in THF to produce the title compound after purification by flash column chromatography (silica gel, 2% ethyl acetate in hexane).

reactant | 1-(4-bromo-8-tert-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-ethanone | 0.26 mmol, 98 mg | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)(C)C)C(C)=O)OCC | C20H27BrO2
reactant | triethyl-2-fluoro-2-phosphonoacetate | 1.03 mmol, 250 mg | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | n-butyllithium | 1.03 mmol, 1.6 M, 0.65 mL | C(CCC)[Li]
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl (2E)-3-(4-bromo-8-tert-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-enoate | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)(C)C)/C(=C(\C(=O)OCC)/F)/C)OCC | C24H32BrFO3
